US04042461
A Triton X-100/cholesterol linoleate solution was prepared by dissolving 300 mg cholesteryl linoleate in 10 ml of hot Triton X-100 and adding 90 ml of deionized water. The clear solution was stable at room temperature for several weeks.

reactant | cholesteryl linoleate | 300 mg | CCCCC/C=C\C/C=C\CCCCCCCC(=O)O[C@H]1CC[C@@]2([C@H]3CC[C@]4([C@H]([C@@H]3CC=C2C1)CC[C@@H]4[C@H](C)CCCC(C)C)C)C | C45H76O2
reactant | water | 90 ml | O | H2O
reactant | X-100 | CCC(CC)COC(C1=CC=CC=C1)(C2=CC=CC=C2)C(=O)N(C)CC[NH+](C)C.[Cl-]
product | X-100 cholesterol linoleate | CCC(CC)COC(C1=CC=CC=C1)(C2=CC=CC=C2)C(=O)N(C)CC[NH+](C)C.[Cl-].C(CCCCCCC\C=C/C\C=C/CCCCC)(=O)O[C@@H]1CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | InChI=1S/C45H76O2.C25H36N2O2.ClH/c1-7-8-9-10-11-12-13-14-15-16-17-18-19-20-21-25-43(46)47-38-30-32-44(5)37(34-38)26-27-39-41-29-28-40(36(4)24-22-23-35(2)3)45(41,6)33-31-42(39)44;1-6-21(7-2)20-29-25(22-14-10-8-11-15-22,23-16-12-9-13-17-23)24(28)27(5)19-18-26(3)4;/h11-12,14-15,26,35-36,38-42H,7-10,13,16-25,27-34H2,1-6H3;8-17,21H,6-7,18-20H2,1-5H3;1H/b12-11-,15-14-;;/t36-,38+,39+,40-,41+,42+,44+,45-;;/m1../s1
